US08466162B2
A-9) 4-Methyl-6-(2-methyl-pyridin-4-yl)-pyrimidin-2-ylamine
A mixture of 2.00 g (13.9 mmol) 2-amino-4-chloro-6-methylpyrimidine, 2.48 g (18.1 mmol) 2-picoline-4-boronic acid, 0.43 g (2.8 mmol) tetrakis(triphenylphosphine)palladium(0) and 3.85 g (27.9 mmol) potassium carbonate in 40 mL 1,2-dimethoxyethane and 4 mL water is heated to reflux temperature and stirred overnight. The reaction mixture is concentrated under reduced pressure, water is added and the precipitated product is filtered off and dried in vacuo at 40° C. Yield: 1.94 g (69%).

reactant | 2-amino-4-chloro-6-methylpyrimidine | 13.9 mmol, 2.00 g | NC1=NC(=CC(=N1)Cl)C | C5H6ClN3
reactant | 2-picoline-4-boronic acid | 18.1 mmol, 2.48 g | N1=C(C=C(C=C1)B(O)O)C | C6H8BNO2
reactant | potassium carbonate | 27.9 mmol, 3.85 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,2-dimethoxyethane | 40 mL | COCCOC | C4H10O2
solvent | water | 4 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 2.8 mmol, 0.43 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Methyl-6-(2-methyl-pyridin-4-yl)-pyrimidin-2-ylamine | CC1=NC(=NC(=C1)C1=CC(=NC=C1)C)N | C11H12N4
